US04387232
5.24 Grams of 3-acetylaminopropionic acid was dissolved in a mixed solvent of 25 ml of chloroform and 4.04 g of triethylamine. To the solution which was stirred keeping the temperature below -5° C., was added 6.83 g of isobutyl chloroformate. After stirring for additional 20 minutes at room temperature, the resultant solution and 20 ml of 2 N aqueous sodium hydroxide solution were simultaneously added dropwise to 45 ml of aqueous solution containing 3.10 g of histidine which has been adjusted to a pH of 10.50 while the reaction system was stirred and maintained to a temperature below 10° C. and a pH between 10.30 and 10.50. After stirring for additional 30 minutes at room temperature, the reaction solution was settled and the lower layer (chloroform layer) was separated out. The aqueous layer was treated by a similar manner as in Example 4 to obtain 3.65 g of N-acetyl-L-carnosine crystals. The specific rotation power [α]D20 was 26.5 (C=3, H2O). Also, the infrared spectrum (IR) and high resolution nuclear magnetic resonance (NMR) were identical with those of an authentic sample.

reactant | 3-acetylaminopropionic acid | C(C)(=O)NCCC(=O)O | C5H9NO3
reactant | isobutyl chloroformate | 6.83 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | sodium hydroxide | 2 N, 20 ml | [OH-].[Na+]
reactant | histidine | 3.10 g | N[C@@H](CC1=CNC=N1)C(=O)O | C6H9N3O2
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 4.04 g | C(C)N(CC)CC | C6H15N
product | N-acetyl-L-carnosine | 3.65 g | CC(=O)NCCC(=O)N[C@@H](CC1=CN=CN1)C(=O)O | C11H16N4O4
